US04642378
25.3 g of phenethanol (available commercially from, e.g., Aldrich Chemical Co.) is added to 41 g of p-toluenesulfonyl chloride in 200 ml of pyridine at 0° C. and allowed to stand for 24 h. Water is added, and the mixture extracted with ethyl acetate. The ethyl acetate extract was washed with 5% HCl, water, and brine, dried over Na2SO4, and evaporated to a residue. The resulting tosyloxyethylbenzene is then stirred with 12.2 g of n-propylamine in 100 ml of DMF at 65° C. for one hour. The solution is diluted with water and acidified with HCl. The mixture is then washed with Et2O, basified with NH4OH, and extracted with ethyl acetate. Evaporation of the solvent (after drying over Na2SO4) produces N-propyl-N-phenethylamine (HNR1R2).

reactant | phenethanol | 25.3 g | C=1C=CC(=CC1)CCO | C8H10O
reactant | p-toluenesulfonyl chloride | 41 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | O | H2O
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N-propyl-N-phenethylamine | C(CC)NCCC1=CC=CC=C1 | C11H17N
